US09255089B2
To tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-1-carboxylate (41.2 mg, 0.09 mmol) in ethanol (5 mL) was added hydrochloric acid (0.66 mL, 2.64 mmol, 4 M in 1,4-dioxane). The mixture was heated to 60° C. for 6 hours and then concentrated in vacuo. Purification by reverse-phase HPLC (25-50% acetonitrile/water with 0.01% trifluoroacetic acid, Gemini C18 5μ) afforded 6-(3,5-dimethylisoxazol-4-yl)-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazol-2(3H)-one as a white solid.

reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-1-carboxylate | 0.09 mmol, 41.2 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C(O)C1=NC=C(C=C1)F)C | C25H27FN4O5
reactant | hydrochloric acid | 2.64 mmol, 4 M, 0.66 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-((5-fluoropyridin-2-yl)(hydroxy)methyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(O)C1=NC=C(C=C1)F)C | C18H15FN4O3
